US05389614
4a. [5-(S)-(3-Guanidinopropyl)-2,4-dioxoimidazolidin-3-yl]-acetyl-β-alanine-tert-butyl ester
0.88 g of dicyclohexylcarbodiimide are added to a suspension of 0.73 g of HCl.H-β-Ala-OtBu, 1.03 g of [5-(S)-(3-guanidinopropyl)-2,4-dioxoimidazolidin-3-yl]-acetic acid and 0.54 g of HOBt in 30 ml of dimethylformamide at 0° C. The mixture is stirred at 0° C. for one hour and at room temperature for 3 hours. It is then left to stand at room temperature overnight, and the insoluble material is filtered off with suction. The filtrate is concentrated, and the residue is chromatographed over ®Sephadex LH20 in a mixture of glacial acetic acid, butanol and water. The fractions containing the pure substance are concentrated, the residue is dissolved in water and the product is freeze-dried.

reactant | dicyclohexylcarbodiimide | 0.88 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | HCl | 0.73 g | Cl | ClH
reactant | H-β-Ala-OtBu | NCCC(=O)OC(C)(C)C | C7H15NO2
reactant | [5-(S)-(3-guanidinopropyl)-2,4-dioxoimidazolidin-3-yl]-acetic acid | 1.03 g | N(C(=N)N)CCC[C@H]1C(N(C(N1)=O)CC(=O)O)=O | C9H15N5O4
reactant | HOBt | 0.54 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | [5-(S)-(3-Guanidinopropyl)-2,4-dioxoimidazolidin-3-yl]-acetyl-β-alanine-tert-butyl ester | C(C)(C)(C)OC(CCN(C(C)=O)N1C(N[C@H](C1=O)CCCNC(=N)N)=O)=O | C16H28N6O5
